US05643855
Preparation of methyl N-L-phenylalanyl-L-valine
A solution of trimethylaluminum (136.2 mL of a 2M solution in hexane, 272.4 mmol) was added dropwise to a stirring suspension of L-phenylalanine (15.0 g, 90.79 mmol) in 150 mL of methylene chloride at 0° C. (ice-bath). The resultant clear solution was allowed to warm to room temperature and stirred for 23 h. A solution of the free base of L-valine methyl ester (15.22 g, 90.79 mmol) in 100 mL of methylene chloride was added dropwise and the resultant clear solution was stirred at room temperature for 72 h. The reaction mixture was then cooled to 0° C. and with stirring, 6N HCl was dropwise until the pH was 2. The mixture was stirred for an additional 0.5 h followed by addition of 40 mL of 50% aqueous NaOH until the pH was 13. To this mixture was added 800 mL of methylene chloride and 100 mL of water. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure to provide a residue which was chromatographed on silica gel using 5% methanol in methylene chloride as the eluting solvent. The desired fractions were collected and evaporated under reduced pressure to yield 5.0 g (34%) of the title product as a colorless oil. IR (neat, cm-1), C=O (1665.8, 1742.0), N--H (3366.6). 1H NMR and 13C NMR (CDCl3) spectra were both consistent with the title product. Analysis calculated for C15H22ClN2Oe ·1/4H2O: C, 56.41; H, 7.42; N, 8.77; Cl, 11.10; Found: C, 56.34; H, 7.65; N, 8.61; Cl, 10.62.

reactant | trimethylaluminum | C[Al](C)C
reactant | L-phenylalanine | 90.79 mmol, 15.0 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | L-valine methyl ester | 90.79 mmol, 15.22 g | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | HCl | 6N | Cl | ClH
reactant | NaOH | 40 mL | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | methyl N-L-phenylalanyl-L-valine | 5.0 g, 34% | CN([C@@H](C(C)C)C(=O)O)C([C@@H](N)CC1=CC=CC=C1)=O | C15H22N2O3
